US03997557
A solution of 5.94 g (0.05 mole) of 2-diethylaminoethylamine and 11.52 g (0.05 mole) of 4-methyl-2-phenacyl-cyclohexanone in glacial acetic acid is refluxed under nitrogen for 8 hours. Water is added to the mixture, and the mixture is acidified with dilute hydrochloric acid and washed with ether. The aqueous solution is basified with 10% sodium carbonate and extracted with ether to give a light brown oil. The oil is dissolved in ether and ethereal hydrogen chloride is added to give a granular off-white salt. The salt is recrystallized from an isopropanol-ether mixture and then from a methanol-ether pair to give 1-(2-diethylaminoethyl)-2-phenyl-5-methyl-4,5,6,7-tetrahydroindole hydrochloride as light tan crystals, m.p. 171°-177° C.

reactant | 2-diethylaminoethylamine | 0.05 mole, 5.94 g | C(C)N(CCN)CC | C6H16N2
reactant | 4-methyl-2-phenacyl-cyclohexanone | 0.05 mole, 11.52 g | CC1CC(C(CC1)=O)CC(=O)C1=CC=CC=C1 | C15H18O2
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 1-(2-diethylaminoethyl)-2-phenyl-5-methyl-4,5,6,7-tetrahydroindole hydrochloride | Cl.C(C)N(CCN1C(=CC=2CC(CCC12)C)C1=CC=CC=C1)CC | InChI=1S/C21H30N2.ClH/c1-4-22(5-2)13-14-23-20-12-11-17(3)15-19(20)16-21(23)18-9-7-6-8-10-18;/h6-10,16-17H,4-5,11-15H2,1-3H3;1H
